US07683079B2
Step C]: 3-Butyl-1-phenethyl-piperidine-4-one
To a solution of 3-Butyl-piperidine-4-one (250 mg) in DMF (5 ml) was added DIPEA (468 mg) and then a solution of (2-bromoethyl)-benzene (373 mg) in DMF (5 ml) over a period of 45 min. The resulting mixture was stirred at RT for 1 hour and then heated to 60° C. for 6 hours. The reaction mixture was cooled, diluted with ether and the organic solution was washed with 10% aq. Na2CO3 solution twice and brine. The organic layer was dried over MgSO4, filtered and evaporated to give a residue which was purified by flash chromatography (ethyl acetate/hexanes 1:3) to give the product as a colorless liquid (355 mg). MS (ESI): 260.4 (MH+).

reactant | 3-Butyl-piperidine-4-one | 250 mg | C(CCC)C1CNCCC1=O | C9H17NO
reactant | DIPEA | 468 mg | CCN(C(C)C)C(C)C | C8H19N
reactant | (2-bromoethyl)-benzene | 373 mg | BrCCC1=CC=CC=C1 | C8H9Br
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
solvent | ether | CCOCC | C4H10O
product | 3-Butyl-1-phenethyl-piperidine-4-one | 355 mg | C(CCC)C1CN(CCC1=O)CCC1=CC=CC=C1 | C17H25NO
